US08012976B2
A mixture of 9-(1-benzyl-1H-imidazol-2-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (200 mg, 0.48 mmol), 20% Pd(OH)2/C catalyst (100 mg) in methanol (15 mL) was purged with 1 atm hydrogen and stirred at 40° C. over overnight. Then the mixture solution was filtered and the filtrate was evaporated under reduced pressure. The residue was washed with methanol to obtain 9-(1H-imidazol-2-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one as a light yellow solid (114 mg, yield 72%). 1H-NMR (400 MHz, DMSO-d6) δ: 4.41-4.43 (d, J=8.0 Hz, 1H), 4.98-5.00 (d, J=8.8 Hz, 1H), 6.68-6.73 (m, 1H), 6.86-6.97 (m, 1H), 7.12-7.14 (d, J=8.0 Hz, 1H), 7.20-7.37 (m, 7H), 7.54-7.58 (t, J=8.0 Hz, 1H), 11.77 (s, 1H), 12.19 (s, 1H); LC-MS (ESI) m/z: 330 (M+1)+.

reactant | 9-(1-benzyl-1H-imidazol-2-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 0.48 mmol, 200 mg | C(C1=CC=CC=C1)N1C(=NC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2 | C26H21N5O
catalyst | Pd(OH)2/C | 100 mg | [OH-].[OH-].[Pd+2]
solvent | methanol | 15 mL | CO | CH4O
product | 9-(1H-imidazol-2-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 114 mg, yield 72% | N1C(=NC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2 | C19H15N5O
